US08455486B2
To a suspension of benzylamine dihydrochloride (1.000 g, 5.126 mmol, 1 equiv.) in anhydrous toluene (25 ml) were added successively diisopropylethylamine (1.32 ml, 10.252 mmol, 2 equiv) and dimethyl 3-oxopentanedioate (0.893 g, 5.126 mmol, 1 equiv.). The resulting mixture was heated at reflux for 18 h before being concentrated in vacuo. The resulting brown oil was purified by flash chromatography over SiO2 (CH2Cl2:MeOH, 97:3). 0.810 g of pure methyl (1-benzyl-5-hydroxy-1H-pyrazol-3-yl)acetate was obtained as a white solid. Yield 64%. MS (ESI+): 247.1; MS (ESI−): 245.1.

reactant | benzylamine dihydrochloride | 5.126 mmol, 1.000 g, 1 equiv. | Cl.Cl.C(C1=CC=CC=C1)N
reactant | diisopropylethylamine | 10.252 mmol, 1.32 ml, 2 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl 3-oxopentanedioate | 5.126 mmol, 0.893 g, 1 equiv. | O=C(CC(=O)OC)CC(=O)OC | C7H10O5
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (1-benzyl-5-hydroxy-1H-pyrazol-3-yl)acetate | 0.810 g, Yield 64% | C(C1=CC=CC=C1)N1N=C(C=C1O)CC(=O)OC | C13H14N2O3
